US06699887B2
To a −78° C. solution of 200 mg of 4-[[5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-hydroxy-methyl]-pyridine in 5 mL of dichloromethane was added 68 μL of diethylamino sulfur trifluoride. The reaction mixture was stirred for 1 hour at −78° C. then quenched with saturated aqueous sodium hydrogen carbonate. The aqueous phase was extracted three times with 10 mL of dichloromethane and combined extracts were washed with brine, dried, filtered and evaporated to give a blue gum which was purified by flash chromatography on silica gel using diethyl ether/hexane (1:2 then 1:1) for the elution to give 118 mg of 4-[[5-(3,5-Dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-fluoro-methyl]-pyridine as a colourless oil. Mass spectrum (ES) m/z 410 [M+H]+, 451 [M+H+MeCN]+.

reactant | 4-[[5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-hydroxy-methyl]-pyridine | 200 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)C(C1=CC=NC=C1)O | C19H19Cl2N3OS
reactant | diethylamino sulfur trifluoride | 68 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[[5-(3,5-Dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-fluoro-methyl]-pyridine | 118 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)C(C1=CC=NC=C1)F | C19H18Cl2FN3S
